US05352792
To a solution of 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-(1-t-butoxycarbonyl-1-methylethoxyimino)acetamido]-3-(trityl-1,2,3-triazol-4-ylthiomethylthio)-3-cephem-4-carboxylic acid diphenylmethyl ester (822 mg: 0.706 mMol.) in a mixture of anisole (3 ml) and nitro- methane (12 ml) at -40° C. is added a solution of aluminum chloride (0.75 g: 5.64 mMol.) in anisole (3 ml), and the mixture is stirred at -30° to -40° C. for 1 hour. The reaction mixture is mixed with 1N-hydrochloric acid (5.7 ml), diluted with water, washed with ethyl acetate, and concentrated under reduced pressure to remove remaining organic solvents. The residual solution is subjected to chromatography over styrene-divinylbenzene copolymer (methanol: water=4:1) and resulting powder is washed with ethyl acetate to give 7β-[(Z)-2-(2-aminothiazol-4-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-(1,2,3-triazol-4-ylthiomethylthio)-3-cephem-4-carboxylic acid (299 mg) as pale yellowish white powder. Yield: 71%.

reactant | 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-(1-t-butoxycarbonyl-1-methylethoxyimino)acetamido]-3-(trityl-1,2,3-triazol-4-ylthiomethylthio)-3-cephem-4-carboxylic acid diphenylmethyl ester | 0.706 mMol, 822 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(\C(=N/OC(C)(C)C(=O)OC(C)(C)C)\C=2N=C(SC2)NC(=O)OC(C)(C)C)=O)=O)SC(SC=2N=NNC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C60H60N8O9S4
reactant | aluminum chloride | 5.64 mMol, 0.75 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 5.7 ml | Cl | ClH
solvent | anisole | 3 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | nitro- methane | 12 ml | [N+](=O)([O-])C | CH3NO2
solvent | anisole | 3 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | water | O | H2O
product | 7β-[(Z)-2-(2-aminothiazol-4-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-(1,2,3-triazol-4-ylthiomethylthio)-3-cephem-4-carboxylic acid | 299 mg, Yield: 71% | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SCSC=2N=NNC2)C(=O)O)C1=O)=N/OC(C)(C)C(=O)O | C19H20N8O7S4
